US07777047B2
N-[2-[5-(2-hydroxyethyl)-4,5-dihydro-1,3-thiazol-2-yl]-5-(trifluoromethoxy)-1H-indol-7-yl]-N-methylthiophene-2-sulfonamide
To a mixture of ethyl {2-[7-[methyl(2-thienylsulfonyl)amino]-5-(trifluoromethoxy)-1H-indol-2-yl]-4,5-dihydro-1,3-thiazol-5-yl}acetate (350 mg), tetrahydrofuran (15 mL) and methanol (3 mL) was added lithium borohydride (30 mg), and the mixture was stirred at room temperature for 2 hr. Lithium borohydride (15 mg) was added to the mixture, and the mixture was further stirred at room temperature for 2 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4), and concentrated. The residue was subjected to silica gel column chromatography, and eluted with hexane-ethyl acetate (2:1-1:4, volume ratio) to give the title compound (110 mg, yield 34%) as colorless crystals. The crystals were recrystallized from ethyl acetate-hexane to give colorless prism crystals. melting point 152-153° C.

reactant | ethyl {2-[7-[methyl(2-thienylsulfonyl)amino]-5-(trifluoromethoxy)-1H-indol-2-yl]-4,5-dihydro-1,3-thiazol-5-yl}acetate | 350 mg | CN(C=1C=C(C=C2C=C(NC12)C=1SC(CN1)CC(=O)OCC)OC(F)(F)F)S(=O)(=O)C=1SC=CC1 | C21H20F3N3O5S3
reactant | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
reactant | methanol | 3 mL | CO | CH4O
reactant | lithium borohydride | 30 mg | [BH4-].[Li+]
reactant | Lithium borohydride | 15 mg | [BH4-].[Li+]
solvent | Water | O | H2O
product | N-[2-[5-(2-hydroxyethyl)-4,5-dihydro-1,3-thiazol-2-yl]-5-(trifluoromethoxy)-1H-indol-7-yl]-N-methylthiophene-2-sulfonamide | 110 mg, yield 34% | OCCC1CN=C(S1)C=1NC2=C(C=C(C=C2C1)OC(F)(F)F)N(S(=O)(=O)C=1SC=CC1)C | C19H18F3N3O4S3
